US07534797B2
7-Chloro-8-fluoro-2-phenyl-1H-quinolin-4-one
3-(3-Chloro-2-fluoro-phenylamino)-3-phenyl-acrylic acid ethyl ester (9.2 g, 0.029 mole) and polyphosphoric acid (160 mL, 3.0 mole) were combined and mechanically stirred under nitrogen at 175° C. external temperature for 40 minutes. While still hot, the reaction was poured over 800 mL of stirring ice-water rinsing with water. The mixture was a fine suspension, and was allowed to stir overnight. After stirring overnight, the mixture was filtered to collect the solid. The solid was washed with 4×150 mL water, and then with 4×150 mL of 4:1 ether/methanol. The solid was placed in the vacuum oven at 45° C. for 4 h and afforded the title compound as an off white product; 1H NMR (DMSO-d6, 400 MHz) δ 6.58 (bs, 1H), 7.50-7.54 (d of d, 1H, J=6.6 Hz & J=8.9 Hz), 7.60-7.64 (m, 3H), 7.82-7.84 (m, 2H), 8.07-8.09 (d of d, 1H, J=1.5 Hz & J=8.7 Hz); MS(ES+): 274.03 (100) [MH+], 275.99 (30) [(M+2)H+]. LCMS tR=2.97 min (OpenLynx, polar—5 min).

reactant | 3-(3-Chloro-2-fluoro-phenylamino)-3-phenyl-acrylic acid ethyl ester | 0.029 mole, 9.2 g | C(C)OC(C=C(C1=CC=CC=C1)NC1=C(C(=CC=C1)Cl)F)=O | C17H15ClFNO2
solvent | water | O | H2O
product | 7-Chloro-8-fluoro-2-phenyl-1H-quinolin-4-one | ClC1=CC=C2C(C=C(NC2=C1F)C1=CC=CC=C1)=O | C15H9ClFNO
